US07718647B2
a.) [Ethoxycarbonyl-(2-thiophen-2-yl-ethyl)-amino]-acetic acid ethyl ester
2-Thiophen-2-yl-ethylamine (21 g, 165 mmol) was stirred in 1 liter of DCM. Ethyl glyoxylate (165 mmol, 50% in toluene) was added followed by 50 uL HOAc. The reaction was stirred for 10 minutes after which time NaBH(OAc)3 (214 mmol, 45 g) was added slowly. After 15 minutes HOAc was added (214 mmol) and the reaction was stirred for 20 minutes. The reaction was concentrated and the crude material was dissolved in 500 mL each of THF and water. NaHCO3 (42 g, 500 mmol) was added followed by ethyl chloroformate (21 mL, 214 mmol). Saturated NaHCO3 was added slowly to the reaction until the gas evolution was minimal. After stirring overnight, the reaction was diluted with EtOAc (400 mL). The product was extracted 2× into EtOAc, dried over MgSO4, and concentrated to give the subtitle product as a dark oil that was used without further purification.

reactant | 2-Thiophen-2-yl-ethylamine | 165 mmol, 21 g | S1C(=CC=C1)CCN | C6H9NS
reactant | Ethyl glyoxylate | 165 mmol | C(C=O)(=O)OCC | C4H6O3
reactant | NaBH(OAc)3 | 214 mmol, 45 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 500 mmol, 42 g | C(=O)(O)[O-].[Na+]
reactant | ethyl chloroformate | 214 mmol, 21 mL | ClC(=O)OCC | C3H5ClO2
solvent | DCM | 1 liter | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
solvent | HOAc | CC(=O)O | C2H4O2
solvent | HOAc | 50 uL | CC(=O)O | C2H4O2
product | [Ethoxycarbonyl-(2-thiophen-2-yl-ethyl)-amino]-acetic acid ethyl ester | C(C)OC(CN(CCC=1SC=CC1)C(=O)OCC)=O | C13H19NO4S
